US04792616
2.76 g of anhydrous potassium carbonate and 3.78 g of 2-isopropylideneaminooxy-ethyl 2-bromopropionate are added to a solution of 2.89 g of 3-(o-chloro-p-trifluoromethyl-phenoxy)-phenol in 40 ml of acetone and the mixture is heated at reflux temperature for 6 hours. The resulting solution is then concentrated to 30 ml and the concentrate is poured into 100 ml of water. The mixture is extracted three times with 80 ml of ethyl acetate each time, the combined organic phases are back-washed twice with 50 ml of water each time, the solvent is evaporated from the organic phase and there is obtained by distillation in a bulb-tube at 100°-170° C./0.05 mm Hg 2-isopropylideneaminooxy-ethyl 2-[3-(o-chloro-p-trifluoromethyl-phenoxy)-phenoxy]-propionate.

reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-isopropylideneaminooxy-ethyl 2-bromopropionate | 3.78 g | BrC(C(=O)OCCON=C(C)C)C | C8H14BrNO3
reactant | 3-(o-chloro-p-trifluoromethyl-phenoxy)-phenol | 2.89 g | ClC1=C(OC=2C=C(C=CC2)O)C=CC(=C1)C(F)(F)F | C13H8ClF3O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-isopropylideneaminooxy-ethyl 2-[3-(o-chloro-p-trifluoromethyl-phenoxy)-phenoxy]-propionate | ClC1=C(OC=2C=C(OC(C(=O)OCCON=C(C)C)C)C=CC2)C=CC(=C1)C(F)(F)F | C21H21ClF3NO5
